US08124610B2
4-Iodo-N-thiazol-2-yl-benzenesulfonamide
2-Aminothiazole (1.32 g, 0.0132 mol) was added to a solution of 4-iodobenzenesulfonyl chloride (4.00 g, 0.0132 mol) in Pyridine (10 mL, 0.1 mol) and methylene chloride (36 mL, 0.56 mol). After stirring 4 d, the reaction mixture was concentrated in vacuo. The resulting oil was taken up in 1:1 methylene chloride-methanol and stirred. A white precipitate formed. The solid was collected by filtration. 2.65 g (49%) of the product was obtained as an off-white solid.

reactant | 2-Aminothiazole | 0.0132 mol, 1.32 g | NC=1SC=CN1 | C3H4N2S
reactant | 4-iodobenzenesulfonyl chloride | 0.0132 mol, 4.00 g | IC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClIO2S
reactant | Pyridine | 0.1 mol, 10 mL | N1=CC=CC=C1 | C5H5N
reactant | methylene chloride | 0.56 mol, 36 mL | C(Cl)Cl | CH2Cl2
product | 4-Iodo-N-thiazol-2-yl-benzenesulfonamide | 2.65 g, 49% | IC1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C9H7IN2O2S2
